US04845210
Imidazole (0.2 g) and tert-butyldimethylsilyl chloride (0.3 g) are added to a solution of cis-3-[(R)-1-hydroxyethyl]-4-trimethylsilylethynyl-2-azetidinone (0.2 g) in N,N-dimethylformamide (7 ml), and the mixture is stirred at 60° C.-65° C. for 1.5 hours and then poured into a mixture of ethyl acetate (50 ml) and water (50 ml). The organic layer is separated, washed with aqueous sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure, and the residue is subjected to silica gel column chromatography to give cis i.e. (3R,4S)-3-[(R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-trimethylsilylethynyl-2-azetidinone as crystals. (0.24 g).

reactant | Imidazole | 0.2 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 0.3 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | cis-3-[(R)-1-hydroxyethyl]-4-trimethylsilylethynyl-2-azetidinone | 0.2 g | O[C@H](C)[C@@H]1C(N[C@@H]1C#C[Si](C)(C)C)=O | C10H17NO2Si
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | (3R,4S)-3-[(R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-trimethylsilylethynyl-2-azetidinone | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1C(N[C@@H]1C#C[Si](C)(C)C)=O | C16H31NO2Si2
